US08357693B2
To a mixture of 2-[(3-phenyl)phenyl]-7-methoxy-4-oxo-3,4-dihydroquinazolin-6-yl acetate (3.6 g, 9.32 mmole) in SOCl2 (40 mL) was added DMF (1 mL) and the reaction was stirred at reflux for 16 h. The mixture was cooled to RT and then the volatiles were removed in vacuo. The crude product was dissolved in CHCl3 (300 mL) and washed with saturated NaHCO3 solution (3×150 mL), water (2×150 mL) and brine (1×150 mL) and dried with Na2SO4. The solution was concentrated in vacuo to yield 4-chloro-2-[(3-phenyl)phenyl]-7-methoxyquinazolin-6-yl acetate (4.0 g, 9.88 mmole). HPLC retention time 11.12 mins. (5-95-13 method).

reactant | 2-[(3-phenyl)phenyl]-7-methoxy-4-oxo-3,4-dihydroquinazolin-6-yl acetate | 9.32 mmole, 3.6 g | C(C)(=O)OC=1C=C2C(NC(=NC2=CC1OC)C1=CC(=CC=C1)C1=CC=CC=C1)=O | C23H18N2O4
reactant | DMF | 1 mL | CN(C)C=O | C3H7NO
reactant | SOCl2 | 40 mL | O=S(Cl)Cl | Cl2OS
product | 4-chloro-2-[(3-phenyl)phenyl]-7-methoxyquinazolin-6-yl acetate | 9.88 mmole, 4.0 g | C(C)(=O)OC=1C=C2C(=NC(=NC2=CC1OC)C1=CC(=CC=C1)C1=CC=CC=C1)Cl | C23H17ClN2O3
